US06313094B1
[Process 1] Boc-Ser(Me)-OH.DCHA
In a DMF solution containing 2.00 g of Boc-Ser-OH, 0.86 g of sodium hydride (60% oily suspension) was added under ice cooling and the resultant mixture was stirred for 30 min. To the resultant solution, 0.72 ml of methyl iodide was added and the resultant solution was stirred for 3 hr. The reaction mixture was neutralized with citric acid and evaporated under reduced pressure. The obtained residue was redissolved in ethyl acetate, and the solution was washed with 5% aqueous citric acid solution and saturated aqueous sodium chloride solution. successively, and dried over anhydrous sodium sulfate. The dried solution was evaporated under reduced pressure. The residue was subjected to a silica gel column chromatography (chloroform:methanol=10:1) and crystallized as its DCHA salt from n-hexane to give 0.79 g of the title compound.

reactant | Boc-Ser-OH | 2.00 g | N([C@@H](CO)C(=O)O)C(=O)OC(C)(C)C | C8H15NO5
reactant | sodium hydride | 0.86 g | [H-].[Na+]
reactant | methyl iodide | 0.72 ml | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | CN(C)C=O | C3H7NO
product | Boc-Ser(Me)-OH.DCHA | 0.79 g | CC(C)(C)OC(=O)N[C@@H](COC)C(=O)O | C9H17NO5
